US09029388B2
C) 1-[4-(Benzyloxy)phenyl]-3-ethyl-1H-pyrazolo[3,4-b]pyridine
1-(2-Chloropyridin-3-yl)propan-1-one (600 mg) and [4-(benzyloxy)phenyl]hydrazine hydrochloride (976 mg) were dissolved in ethanol (10 ml), and the mixture was stirred under microwave irradiation at 170° C. for 3 hr, and concentrated. The residue was purified by basic silica gel column chromatography (hexane/ethyl acetate) to give the title compound (300 mg). MS (API+): [M+H]+ 330.1.

reactant | 1-(2-Chloropyridin-3-yl)propan-1-one | 600 mg | ClC1=NC=CC=C1C(CC)=O | C8H8ClNO
reactant | [4-(benzyloxy)phenyl]hydrazine hydrochloride | 976 mg | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)NN
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-[4-(Benzyloxy)phenyl]-3-ethyl-1H-pyrazolo[3,4-b]pyridine | 300 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1N=C(C=2C1=NC=CC2)CC | C21H19N3O
